US04075199
To a solution of 36.2 grams (0.55 moles) of 85% potassium hydroxide in 75 ml. of water, cooled to 15° C in a 2 liter jacketed reactor was added 70 grams (0.70 moles) of 90% t-butylhydroperoxide slowly and with rapid stirring. The temperature was held at 20°-25° C by the rate of addition and by circulating 15° C water through the reactor jacket. After the addition was complete, the reaction was stirred for 20 minutes at 15° C and then 102 grams (0.5 moles) of 2-t-butylazo-2-chloro-4-methylpentane was added dropwise over a 40 minute period holding the temperature at 18°-20° C. After the addition was complete the reaction was stirred for 15 minutes at 20° C. It was then cooled to 0°-5° C and stirred for 45 minutes. A 0.2 mole (16 grams) portion of 50% NaOH was then added and the reaction stirred for 15 minutes. Ice water was then added until the potassium chloride dissolved. The mixture was extracted with 200ml. of pentane, the pentane extract washed with ice cold water, saturated NaHCO3 solution, dried over anhydrous sodium sulfate, filtered and the pentane evaporated under reduced pressure at 10° C to leave 114.2 grams (89% yield) of crude 2-t-butylazo-2-(t-butylperoxy)-4-methylpentane. The crude azo-peroxide assayed 82% when compared with an analytical standard obtained by low temperature recrystallization using an infrared analysis technique.

reactant | potassium hydroxide | 0.55 moles, 36.2 grams | [OH-].[K+]
reactant | t-butylhydroperoxide | 0.70 moles, 70 grams | C(C)(C)(C)OO | C4H10O2
reactant | 2-t-butylazo-2-chloro-4-methylpentane | 0.5 moles, 102 grams | C(C)(C)(C)N=NC(C)(CC(C)C)Cl | C10H21ClN2
reactant | NaOH | [OH-].[Na+]
reactant | potassium chloride | [Cl-].[K+]
solvent | water | O | H2O
product | 2-t-butylazo-2-(t-butylperoxy)-4-methylpentane | 114.2 grams, 89% yield | C(C)(C)(C)N=NC(C)(CC(C)C)OOC(C)(C)C | C14H30N2O2
